US07176310B1
C. [4-Amino-5-(4-fluorophenylcarbamoyl)pyrimidin-2-ylsulfanyl]acetic acid ethyl ester
A solution of ethyl bromoacetate (0.128 g, 0.76 mmol) in acetone (2 mL) was added to a suspension of 4-amino-2-mercaptopyrimidine-5-carboxylic acid (4-fluorophenyl)amide (0.10 g, 0.38 mmol) and Na2CO3 (80 mg, 0.76 mmol) in acetone (5 mL). After stirring at ambient temperature for 2 hours, the resulting suspension was filtered and the filtrate concentrated to afford a crude solid that was recrystallized in dichloromethane/hexanes, or alternatively CH3CN/H2O) to afford the titled compound as a white solid (100 mg, 0.29 mmol, 76% yield). 1H NMR (300 MHz, d6-acetone) δ 9.60 (bs, 1H), 8.67 (s, 1H), 7.75 (m, 1H), 7.56 (m, 2H), 4.15 (m, 2H), 3.92 (s, 1H), 1.22 (m, 3H).

reactant | ethyl bromoacetate | 0.76 mmol, 0.128 g | BrCC(=O)OCC | C4H7BrO2
reactant | 4-amino-2-mercaptopyrimidine-5-carboxylic acid (4-fluorophenyl)amide | 0.38 mmol, 0.10 g | FC1=CC=C(C=C1)NC(=O)C=1C(=NC(=NC1)S)N | C11H9FN4OS
reactant | Na2CO3 | 0.76 mmol, 80 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | CH3CN H2O | CC#N.O
solvent | acetone | 2 mL | CC(=O)C | C3H6O
solvent | acetone | 5 mL | CC(=O)C | C3H6O
product | [4-Amino-5-(4-fluorophenylcarbamoyl)pyrimidin-2-ylsulfanyl]acetic acid ethyl ester | 0.29 mmol, 100 mg, 76% yield | C(C)OC(CSC1=NC=C(C(=N1)N)C(NC1=CC=C(C=C1)F)=O)=O | C15H15FN4O3S
